US08461182B2
Step R1-2: The mixture of 2-oxo-1,2,3,4-tetrahydroquinolin-7-yl trifluoromethanesulfonate (338 g), Zn(CN)2 (134 g) and Pd(PPh3)4 (33.5 g) in DMF (3.0 L) was heated at 100° C. for 4 hours and cooled to room temperature. To the mixture, Zn(CN)2 (134 g) and Pd(PPh3)4 (12.7 g) were added and the mixture was stirred at 100° C. for 2 hours. After cooling to 60° C., the reaction mixture was filtrated through a pad of Celite. The filtrate was concentrated to obtain a solid. The solid was washed with EtOAc twice to obtain 2-oxo-1,2,3,4-tetrahydroquinoline-7-carbonitrile as a pale yellow solid (165 g).

reactant | 2-oxo-1,2,3,4-tetrahydroquinolin-7-yl trifluoromethanesulfonate | 338 g | FC(S(=O)(=O)OC1=CC=C2CCC(NC2=C1)=O)(F)F | C10H8F3NO4S
reactant | DMF | 3.0 L | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 134 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 33.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 134 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 12.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-oxo-1,2,3,4-tetrahydroquinoline-7-carbonitrile | 165 g | O=C1NC2=CC(=CC=C2CC1)C#N | C10H8N2O
